US05089504
A. Preparation of methyl 2-propanoyl-3-methoxyacrylate
A mixture of methyl propionylacetate (112.2 g, 0.86 mol), trimethyl orthoformate (188 ml, 1.72 mol) and acetic anhydride (81 ml, 0.86 mol) was heated at reflux for 17 hours, then the volatile material removed in vacuo, finally at 70°/0.3mm. The residue was predominantly methyl 2-propanoyl-3-methoxyacrylate, and was used without further purification.

reactant | methyl propionylacetate | 0.86 mol, 112.2 g | C(CC)(=O)CC(=O)OC | C6H10O3
reactant | trimethyl orthoformate | 1.72 mol, 188 ml | C(OC)(OC)OC | C4H10O3
reactant | acetic anhydride | 0.86 mol, 81 ml | C(C)(=O)OC(C)=O | C4H6O3
product | methyl 2-propanoyl-3-methoxyacrylate | C(CC)(=O)C(C(=O)OC)=COC | C8H12O4
